US05290943
In 300 ml of water, 13.6 g (0. lmol) of 2-acetamidopyridine (Id) was dissolved. To this solution, 35.5 g (0.25 mol) of disodium hydrogenphosphate and 100 ml of dichloromethane were added in this order. While this mixture was stirred, 8.0 g (0.11 mol) of chlorine was introduced thereto at 0° C. for 30 minutes. Then the mixture was further stirred at the same temperature for 2 hours. After the mixture was brought back to room temperature, it was separated into a water layer and an extract layer. Thereafter, the water layer was further extracted with 100 ml of dichloromethane and then washed with saturated brine. The resulting extract layer was dehydrated by sodium sulfate anhydride. When dichloromethane was evaporated off, 16.0 g (yield: 94.0%) of 2-acetamido-5-chloropyridine (IIj) was obtained as a pale brown crystal.

reactant | 2-acetamidopyridine | 13.6 g | C(C)(=O)NC1=NC=CC=C1 | C7H8N2O
reactant | disodium hydrogenphosphate | 0.25 mol, 35.5 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | chlorine | 0.11 mol, 8.0 g | ClCl | Cl2
solvent | water | 300 ml | O | H2O
product | 2-acetamido-5-chloropyridine | 16.0 g, yield: 94.0% | C(C)(=O)NC1=NC=C(C=C1)Cl | C7H7ClN2O
